US08623859B2
4-Methoxy-N,2,6-trimethyl-N-{[4-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)-1,3-oxazol-2-yl]methyl}benzenesulfonamide
The title compound was prepared according to general procedure BH using 2-{[(4-methoxy-2,6-dimethyl-benzenesulfonyl)-methyl-amino]-methyl}-oxazole-4-carboxylic acid (100 mg, 0.28 mmol), EDCI (75 mg, 0.39 mmol), HOBt (57 mg, 0.42 mmol) DIPEA (0.06 mL, 0.33 mmol), 1-(1-methyl-piperidin-4-ylmethyl)-piperazine (66 mg, 0.33 mmol) and DCM (10 mL).

reactant | 2-{[(4-methoxy-2,6-dimethyl-benzenesulfonyl)-methyl-amino]-methyl}-oxazole-4-carboxylic acid | 0.28 mmol, 100 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC=1OC=C(N1)C(=O)O)C | C15H18N2O6S
reactant | EDCI | 0.39 mmol, 75 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.42 mmol, 0.06 mL, 57 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(1-methyl-piperidin-4-ylmethyl)-piperazine | 0.33 mmol, 66 mg | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Methoxy-N,2,6-trimethyl-N-{[4-({4-[(1-methylpiperidin-4-yl)methyl]piperazin-1-yl}carbonyl)-1,3-oxazol-2-yl]methyl}benzenesulfonamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(CC=1OC=C(N1)C(=O)N1CCN(CC1)CC1CCN(CC1)C)C)C | C26H39N5O5S
